US05616774
(A) 2,6-Di-tert-butyl-4-[3-nitro-α-(piperidin-1-yl)benzyl]phenol
Using the same procedure described in Example 4, 30.2 g (0.2 mol) of 3-nitro-benzaldehyde, 37.4 g (0.44 mol) of piperidine and 39.2 g (0.19 mol) of 2,6-di-tert-butyl-phenol are allowed to react in xylene to give 48.4 g of the title compound as yellow crystals, melting at 157° C.

reactant | 3-nitro-benzaldehyde | 0.2 mol, 30.2 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | piperidine | 0.44 mol, 37.4 g | N1CCCCC1 | C5H11N
reactant | 2,6-di-tert-butyl-phenol | 0.19 mol, 39.2 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2,6-Di-tert-butyl-4-[3-nitro-α-(piperidin-1-yl)benzyl]phenol | 48.4 g | C(C)(C)(C)C1=C(C(=CC(=C1)C(C1=CC(=CC=C1)[N+](=O)[O-])N1CCCCC1)C(C)(C)C)O | C26H36N2O3
